US06251625B1
Synthesis of AC-Asp-Phe-OMe
80 μl buffer (0.5 M Hepes/Na+; pH 7) are added to 50 mg (0.2 mmol) AC-Asp(OK)-OK and 83 mg (0.4 mmol) H-Phe-OME.HCl in a closable polypropylene vessel and the components are immediately mixed intensively with a spatula. The reaction mixture is thermostatically controlled at 40° C. on a water-bath and the reaction is then started with 20 μl buffer comprising 4 mg thermolysin preparation (Sigma P 1512).

reactant | Asp(OK)-OK | N[C@@H](CC(O[K])=O)C(=O)O[K]
reactant | H-Phe-OME.HCl | 0.4 mmol, 83 mg | COC(=O)[C@H](CC1=CC=CC=C1)N.Cl
product | Asp-Phe-OMe | N[C@@H](CC(O)=O)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OC | C14H18N2O5
